US06313116B1
2-Ethyl-4-methoxybenzothiazole-7-carboxylic acid (3,5-dimethylisoxazol-4-yl)amide
To a suspension of 2-ethyl-4-methoxybenzothiazole-7-carboxylic acid (0.1 g) in dichloromethane (10 ml) was added oxalyl chloride (0.08 ml) and dimethylformanide (1 drop). The reaction was stirred at room temperature for 16 hrs, and then the solvent was removed in vacuo to yield a brown solid residue. This was taken up in dichloromethane is (30 ml) and 3,5-dimethylisoxazol-4-amine (0.05 g) was added followed by triethylamine (0.15 ml) and the reaction stirred at room temperature for 16 hrs. The solvent was removed in vacuo and the product purified by flash chromatography (eluent ethyl acetate) to yield the title compound as an off-white solid (0.016 g). TLC Rf 0.38 (ethyl acetate); Mpt 85-87° C.

reactant | 2-ethyl-4-methoxybenzothiazole-7-carboxylic acid | 0.1 g | C(C)C=1SC2=C(N1)C(=CC=C2C(=O)O)OC | C11H11NO3S
reactant | oxalyl chloride | 0.08 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3,5-dimethylisoxazol-4-amine | 0.05 g | CC1=NOC(=C1N)C | C5H8N2O
reactant | triethylamine | 0.15 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-Ethyl-4-methoxybenzothiazole-7-carboxylic acid (3,5-dimethylisoxazol-4-yl)amide | 0.016 g | CC1=NOC(=C1NC(=O)C1=CC=C(C=2N=C(SC21)CC)OC)C | C16H17N3O3S
